US08202858B2
(1-Benzyl-2-methyl-4,5-dihydro-1H-1,3,6-triaza-benzo[e]azulen-6-yl)-[3-methyl-4-(3-piperazin-1-yl-propoxy)-phenyl]-methanone Dihydrochloride
4-{3-[4-(1-Benzyl-2-methyl-4,5-dihydro-1H-1,3,6-triaza-benzo[e]azulene-6-carbonyl)-2-methyl-phenoxy]-propyl}-piperazine-1-carboxylic acid tert-butyl ester from Example E70.1 (230 mg, 0.35 mmol) was dissolved in methanol (5 ml) and 4M HCl in dioxan (2 ml) was added. The mixture was stirred for 2 h at room temperature then concentrated in vacuo and triturated with diethyl ether to yield the title compound (215 mg, 98%).

reactant | 4-{3-[4-(1-Benzyl-2-methyl-4,5-dihydro-1H-1,3,6-triaza-benzo[e]azulene-6-carbonyl)-2-methyl-phenoxy]-propyl}-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)CCCOC1=C(C=C(C=C1)C(=O)N1C2=C(C=3N(C(=NC3CC1)C)CC1=CC=CC=C1)C=CC=C2)C | C39H47N5O4
reactant | HCl | 4M | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
solvent | dioxan | 2 ml | O1CCOCC1 | C4H8O2
product | (1-Benzyl-2-methyl-4,5-dihydro-1H-1,3,6-triaza-benzo[e]azulen-6-yl)-[3-methyl-4-(3-piperazin-1-yl-propoxy)-phenyl]-methanone Dihydrochloride | 215 mg, 98% | Cl.Cl.C(C1=CC=CC=C1)N1C(=NC=2CCN(C3=C(C12)C=CC=C3)C(=O)C3=CC(=C(C=C3)OCCCN3CCNCC3)C)C | InChI=1S/C34H39N5O2.2ClH/c1-25-23-28(13-14-32(25)41-22-8-18-37-20-16-35-17-21-37)34(40)38-19-15-30-33(29-11-6-7-12-31(29)38)39(26(2)36-30)24-27-9-4-3-5-10-27;;/h3-7,9-14,23,35H,8,15-22,24H2,1-2H3;2*1H
